US08304557B2
ethyl 2-ethyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylate
To a mixture of rhodium acetate (100 mg) and propionitrile (15 mL) was added ethyl 2-diazo-4,4,4-trifluoro-3-oxobutanoate (4.20 g, 20.0 mmol) over 12 hr, and the mixture was stirred at 80° C. for 5 days. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (hexane/ethyl acetate=90/10→0/100) to give the title compound (2.03 g, 43%) as a yellow oil.

reactant | propionitrile | 15 mL | C(CC)#N | C3H5N
reactant | ethyl 2-diazo-4,4,4-trifluoro-3-oxobutanoate | 20.0 mmol, 4.20 g | [N+](=[N-])=C(C(=O)OCC)C(C(F)(F)F)=O | C6H5F3N2O3
catalyst | rhodium acetate | 100 mg | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | ethyl 2-ethyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylate | 2.03 g, 43% | C(C)C=1OC(=C(N1)C(=O)OCC)C(F)(F)F | C9H10F3NO3
